US05206235
Step C: 3-Iodo-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one
A suspension of 1.8 Kg (11.17 mol) of 2,3,4,5-tetrahydro-1H-1-benzazepin-2-one in a mixture of 22.33 L of methylene chloride and 11.78 L (55.83 mol) of hexamethyldisilazane was heated at reflux for 10 minutes then cooled to 30° C. and treated with 8.503 Kg (33.5 mol) of iodine in one portion. The mixture was heated at reflux for 2.5 hours then cooled to room temperature. Aqueous sodium sulfite containing 4.926 Kg of sodium sulfite in 44 L of water was cooled to 0° C. and into it was poured the reaction mixture in several portions with vigorous stirring while maintaining the temperature below 10° C. The reaction vessel was rinsed with 3 L of methylene chloride and the washing transferred to the quenching mixture. Methylene chloride (17 L) was added to the quenching mixture and it was stirred vigorously and the layers allowed to separate. The aqueous layer was removed and reextracted with 12 L of methylene chloride. The combined organic layers were washed with 11 L of water and concentrated under vacuum to a final volume of approximately 5 L. The residue was treated with 55 L of toluene and concentrated under vacuum to a final volume of 10 L. The resulting slurry was removed by filtration and the filter cake washed with an additional 5 L of toluene and dried under vacuum at ambient temperature for 24 hours to give 1.842 Kg (6.42 mol,57%) of product.

reactant | 2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 11.17 mol, 1.8 Kg | N1C(CCCC2=C1C=CC=C2)=O | C10H11NO
reactant | hexamethyldisilazane | 55.83 mol, 11.78 L | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | iodine | 33.5 mol, 8.503 Kg | II | I2
reactant | sodium sulfite | 4.926 Kg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 22.33 L | C(Cl)Cl | CH2Cl2
solvent | water | 44 L | O | H2O
product | 3-Iodo-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | 6.42 mol, 1.842 Kg, 57% | IC1C(NC2=C(CC1)C=CC=C2)=O | C10H10INO
